US05047554
5-(5-methyl-1,2,4-oxadiazol-3-yl)-2-thiophenecarboxylic acid
A mixture of methyl 5-(5-methyl-1,2,4-oxadiazol-3-yl)-2-thiophenecarboxylate, prepared according to Example 22, (86 mg, 0.38 mmoles) in 3 ml of 2N sodium hydroxide was diluted with 1 ml of methanol and warmed to 60° C. for 10 minutes. The solution was cooled to room temperature, diluted with 2 ml of water and acidified to pH 2 with concentrated hydrochloric acid. After standing for 30 minutes the fluffy crystalline solid which slowly separated was collected by filtration and dried in vacuo to furnish the title compound (45 mg, 56%), m.p. 218°-20° C.

reactant | methyl 5-(5-methyl-1,2,4-oxadiazol-3-yl)-2-thiophenecarboxylate | CC1=NC(=NO1)C1=CC=C(S1)C(=O)OC | C9H8N2O3S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | 5-(5-methyl-1,2,4-oxadiazol-3-yl)-2-thiophenecarboxylic acid | 45 mg, 56% | CC1=NC(=NO1)C1=CC=C(S1)C(=O)O | C8H6N2O3S
